US08003689B2
Synthesis of (2R)-3-bromo-N-(3-chloro-4-cyanophenyl)-2-hydroxy-2-methylpropanamide.
Thionyl chloride (7.8 g, 65.5 mmol) was added dropwise to a cooled solution (less than 4° C.) of (R)-3-bromo-2-hydroxy-2-methylpropanoic acid (9.0 g, 49.2 mol) in 50 mL of THF under an argon atmosphere. The resulting mixture was stirred for 3 h under the same condition. To this was added Et3N (6.6 g, 65.5 mol) and stirred for 20 min under the same condition. After 20 min, 4-amino-2-chlorobenzonitrile (5.0 g, 32.8 mmol) and 100 mL of THF were added and then the mixture was allowed to stir overnight at room temperature. The solvent was removed under reduced pressure to give a solid which was treated with 100 mL of H2O, extracted with EtOAc (2×150 mL). The combined organic extracts were washed with saturated NaHCO3 solution (2×100 mL) and brine (300 mL), successively. The organic layer was dried over MgSO4 and concentrated under reduced pressure to give a solid which was purified from column chromatography using EtOAc/hexane (50:50) to give 7.7 g (49.4%) of target compound as a brown solid.

reactant | Thionyl chloride | 65.5 mmol, 7.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | (R)-3-bromo-2-hydroxy-2-methylpropanoic acid | 49.2 mol, 9.0 g | BrC[C@](C(=O)O)(C)O | C4H7BrO3
reactant | Et3N | 65.5 mol, 6.6 g | CCN(CC)CC | C6H15N
reactant | 4-amino-2-chlorobenzonitrile | 32.8 mmol, 5.0 g | NC1=CC(=C(C#N)C=C1)Cl | C7H5ClN2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | H2O | 100 mL | O | H2O
product | (2R)-3-bromo-N-(3-chloro-4-cyanophenyl)-2-hydroxy-2-methylpropanamide | BrC[C@](C(=O)NC1=CC(=C(C=C1)C#N)Cl)(C)O | C11H10BrClN2O2
